US09422312B2
Step 1: N-(4-Bromophenyl)-N′-ethyl-methanesulfonimidamide
The title compound is prepared from N-(4-bromophenyl)methanesulfinamide and ethylamine following a procedure analogous to that described for Intermediate 3 (Step 2). LC (method 1): tR=0.91 min; Mass spectrum (ESI+): m/z=277, 279 [M+H]+.

reactant | N-(4-bromophenyl)methanesulfinamide | BrC1=CC=C(C=C1)NS(=O)C | C7H8BrNOS
reactant | ethylamine | C(C)N | C2H7N
product | N-(4-Bromophenyl)-N′-ethyl-methanesulfonimidamide | BrC1=CC=C(C=C1)NS(=O)(=NCC)C | C9H13BrN2OS
